US08426437B2
8-(8-Benzyl-8-aza-bicyclo[3.2.1]oct-3-ylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate is prepared according to synthesis 111, from 360 mg (1.1 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid and 238 mg (1.1 mmol) of 8-benzyl-8-aza-bicyclo[3.2.1]oct-3-ylamine to give, after esterification according to general method C (using diethylsulfate as the dialkylsulfate) and precipitation in water, 411 mg (69% in two stages) of 8-(8-benzyl-8-aza-bicyclo[3.2.1]oct-3-ylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate in the form of a brown solid.

reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 1.1 mmol, 360 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | 8-benzyl-8-aza-bicyclo[3.2.1]oct-3-ylamine | 1.1 mmol, 238 mg | C(C1=CC=CC=C1)N1C2CC(CC1CC2)N | C14H20N2
reactant | diethylsulfate | C(C)OS(=O)(=O)OCC | C4H10O4S
product | 8-(8-Benzyl-8-aza-bicyclo[3.2.1]oct-3-ylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | C(C1=CC=CC=C1)N1C2CC(CC1CC2)NS(=O)(=O)C2=CC=1C3=C(C(NC1C=C2)=O)NC=C3.C(C)C(=O)[O-] | InChI=1S/C25H26N4O3S.C3H6O2/c30-25-24-21(10-11-26-24)22-14-20(8-9-23(22)27-25)33(31,32)28-17-12-18-6-7-19(13-17)29(18)15-16-4-2-1-3-5-16;1-2-3(4)5/h1-5,8-11,14,17-19,26,28H,6-7,12-13,15H2,(H,27,30);2H2,1H3,(H,4,5)/p-1
